US05059590
To a solution of 10 mg (0.03 mmol) of 5-(phenylethyn-1-yl)-1-β-D-ribofuranosylimidazole-4-carbonitrile dissolved in 4 ml of aqueous ammoniamethanol (1:1 V/V) was added 0.2 ml of hydrogen peroxide, and the reaction was carried out with stirring at room temperature for 30 minutes. After the reaction, the solvent was evaporated and the residue was adsorbed onto a silica gel column (1.8×35 cm) and eluted with a 5-20% ethanol-chloroform solvent mixture to obtain 8.4. mg of 5-(phenylethyn-1-yl)-1-β-D-ribofuranosylimidazole-4-carboxamide (yield: 79.6%).

reactant | 5-(phenylethyn-1-yl)-1-β-D-ribofuranosylimidazole-4-carbonitrile | 0.03 mmol, 10 mg | C1(=CC=CC=C1)C#CC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C#N | C17H15N3O4
reactant | hydrogen peroxide | 0.2 ml | OO | H2O2
product | 5-(phenylethyn-1-yl)-1-β-D-ribofuranosylimidazole-4-carboxamide | yield: 79.6% | C1(=CC=CC=C1)C#CC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C(=O)N | C17H17N3O5
